US05639914
Subsequently, 13.2g (0.032 mol) of N-(4'-iodo-4-biphenyl)acetanilide thus obtained, 6.60 g (0.039 mol) of diphenylamine, 5.53 g (0.040 mol) of anhydrous potassium carbonate, 0.45 g (0.007 mol) of copper powder, and 10 ml of nitrobenzene were mixed. The reaction mixture was then allowed to undergo reaction at a temperature of 200° to 212° C. for 15 hours. The reaction product was then extracted with 100 ml of toluene. The insoluble contents were then removed by filtration. The filtrate was then concentrated to obtain an oily matter. The oily matter thus obtained was then dissolved in 60 ml of isoamyl alcohol. The material was then hydrolyzed with 1 ml of water and 2.64 g (0.040 mol) of 85% potassium hydroxide at a temperature of 130° C. The reaction solution was then subjected to steam distillation to distill off isoamyl alcohol. The residue was extracted with 250 ml of toluene, washed with water, and then concentrated to dryness. The concentrate was then purified by column chromatography (carrier: silica gel; elute: 1/2 mixture of toluene and n-hexane) to obtain 10.5 g (yield: 72.2%) of N,N,N'-triphenylbenzidine. The melting point of the product was from 167.5° C. to 168.5° C.

reactant | diphenylamine | 0.039 mol, 6.60 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | potassium carbonate | 0.040 mol, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 10 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | potassium hydroxide | 0.040 mol, 2.64 g | [OH-].[K+]
solvent | isoamyl alcohol | 60 ml | C(CC(C)C)O | C5H12O
catalyst | copper | 0.007 mol, 0.45 g | [Cu] | Cu
solvent | water | 1 ml | O | H2O
product | N,N,N'-triphenylbenzidine | 10.5 g, yield: 72.2% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(NC2=CC=CC=C2)C=C1)C1=CC=CC=C1 | C30H24N2
